US09334290B2
Iodomethane (0.102 mL, 1.62 mmol) was added slowly to a mixture of 3-(3-bromo-2-chlorophenyl)-8-fluoroquinazoline-2,4(1H,3H)-dione (300 mg, 0.812 mmol), DMF (5 mL) and Cs2CO3 (529 mg, 1.62 mmol). The mixture was stirred at room temperature for 2 h, then was diluted with EtOAc, washed sequentially with water and brine, and dried and concentrated. The residue was purified by column chromatography on silica gel (24 g), eluting with EtOAc-hexanes (gradient from 0-30%), to provide 3-(3-bromo-2-chlorophenyl)-8-fluoro-1-methylquinazoline-2,4(1H,3H)-dione as a yellow solid (280 mg, 90% yield). Mass spectrum m/z 383, 385 (M+H)+. 1H NMR (400 MHz, chloroform-d) δ 8.09 (dq, J=7.8, 0.8 Hz, 1H), 7.79-7.71 (m, 1H), 7.49 (ddd, J=13.9, 8.1, 1.5 Hz, 1H), 7.32-7.29 (m, 2H), 7.29-7.22 (m, 2H), 3.88 (s, 1.5H), 3.86 (s, 1.5H).

reactant | Iodomethane | 1.62 mmol, 0.102 mL | IC | CH3I
reactant | 3-(3-bromo-2-chlorophenyl)-8-fluoroquinazoline-2,4(1H,3H)-dione | 0.812 mmol, 300 mg | BrC=1C(=C(C=CC1)N1C(NC2=C(C=CC=C2C1=O)F)=O)Cl | C14H7BrClFN2O2
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
reactant | Cs2CO3 | 1.62 mmol, 529 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(3-bromo-2-chlorophenyl)-8-fluoro-1-methylquinazoline-2,4(1H,3H)-dione | 280 mg, 90% yield | BrC=1C(=C(C=CC1)N1C(N(C2=C(C=CC=C2C1=O)F)C)=O)Cl | C15H9BrClFN2O2
